************
.subckt 0603_150060RV75240 1 2 3 4
D1 3 2 red
.MODEL red D
+ (IS=123.43E-9
+ N=2.5538
+ RS=15.690
+ IKF=14.110E-12
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=100.00E-12
+ BV=5
+ IBV=100.00E-6)
D2 4 1 bGreen
.MODEL bGreen D
+ (IS=798.77E-12
+ N=4.8320
+ RS=14.210
+ IKF=399.10
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends
***********
